US07749997B2
Bicyclo[3.2.2]nonane-1,5-dicarboxylic acid monomethyl ester
To a stirred solution of dimethyl bicyclo[3.2.2]nonane-1,5-dicarboxylate (2.02 g, 8.41 mmol), in methanol (20 mL) and water (4 mL) was added barium hydroxide octahydrate (1.33 g, 4.20 mmol). The reaction mixture was stirred vigorously at ambient temperature overnight. The reaction mixture was stirred vigorously at ambient temperature overnight. The reaction mixture was diluted with water (20 mL) and washed with isohexane (2×100 mL), then the aqueous phase was acidified with 2M HC1 to pH 2 and extracted into EtOAc (2×100 mL). The organic extracts were combined, dried (MgSO4) and concentrated to leave the title compound (931 mg, 4.11 mmol, 49%) as a clear colourless gum which slowly formed a white solid; 1H NMR (CDCl3) δ 1.72-1.75 (m, 2H), 1.87-1.92 (m, 12H), 3.65 (s, 3H); GC-MS EI m/e M+ 226.

reactant | dimethyl bicyclo[3.2.2]nonane-1,5-dicarboxylate | 8.41 mmol, 2.02 g | C12(CCCC(CC1)(CC2)C(=O)OC)C(=O)OC | C13H20O4
reactant | barium hydroxide octahydrate | 4.20 mmol, 1.33 g | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
solvent | water | 4 mL | O | H2O
product | Bicyclo[3.2.2]nonane-1,5-dicarboxylic acid monomethyl ester | 4.11 mmol, 931 mg, 49% | COC(=O)C12CCCC(CC1)(CC2)C(=O)O | C12H18O4
